### PR TITLE
Downward-finite partial order

### PR DESCRIPTION
**Pull request by eupp**
This PR adds a subclass of downward finite partial orders, i.e. partial orders where each element has only a finite number of predecessors. The set of predecessors of an element is also called a principal ideal, so in other words is that partial order should have finite principal ideal. In Coq it is encoded as function `pideal : E -> {fset E}` together with axiom `forall x y : T, x \in (pideal y) = (x <= y)`.
Moreover, this condition allows us to have upward closure operator `up_clos` which returns decidable predicate (as opposed to `Prop` predicate in the general case). In this PR we also prove that `up_clos` satisfies [Kuratowsky closure axioms](https://en.wikipedia.org/wiki/Kuratowski_closure_axioms).

### CODE REVIEW

File: theories/common/order.v [hunk 1]
```diff
@@ -0,0 +1,161 @@
...
+  - move=> /up_closP[y] le_yx; rewrite inE. 
+    by move=> /orP[] ?; apply/orP; [left | right]; apply/up_closP; exists y.
+   move=> /orP[] /up_closP[y] le_xy y_in; apply/up_closP; exists y=> //=. 
+   all: by rewrite !inE y_in ?orbT.
+Qed.
+
+(* ************************* *)
+
+Lemma up_clos_subs P Q : 
+  {subsumes P <= Q : x y / y <= x } <-> {subset (up_clos P) <= (up_clos Q)}.
```
Comment (volodeyka) [inline theories/common/order.v:144]: Should we prove also `{subsumes P <= Q : x y / y <= x } <-> {subset P <= (up_clos Q)}` ?

File: theories/common/order.v [hunk 2]
```diff
@@ -0,0 +1,161 @@
...
+
+Lemma up_clos_idemp P : 
+  up_clos (up_clos P) =1 up_clos P.
+Proof. 
+  move=> x; apply/idP/idP=> /up_closP[y]. 
+  - move=> le_yx /up_closP[z] le_zy zP.
+    apply/up_closP; exists z=> //. 
+    exact/(le_trans le_zy).
+  move=> le_yx yP; apply/up_closP. 
+  by exists y=> //; apply/up_closP; exists y.
```
Comment (volodeyka) [inline theories/common/order.v:128]:
```suggestion
  move=>>; apply/idP/idP; last exact/up_clos_ext. 
  case/up_closP=>> l /up_closP[x] /le_trans/(_ l) *.
  apply/up_closP; by exists x. 
```

**Review by volodeyka — APPROVED** [review]

File: theories/common/order.v (hunk 1 above)
Comment (eupp) [reply theories/common/order.v:144]: Perhaps later if we'll need that :)
